US08957068B2
To a oven dried round bottom flask with stir bar was added 2,3-difluorobenzaldehyde (0.5 g, 3.52 mmol), (R)-2-methylpropane-2-sulfinamide (0.469 g, 3.87 mmol) and DCE (7.04 mL). To this mixture was then added Copper (II) Sulfate (0.842 g, 5.28 mmol). Reaction mixture heated in a preheated oil bath to 55° C. for 24 hours. The reaction mixture was filtered through a celite pad washing solids with DCE. Combined filtrate was concentrated to afford a viscous yellow oil of (R,E)-N-(2,3-difluorobenzylidene)-2-methylpropane-2-sulfinamide (0.8007 g, 3.26 mmol, 93% yield). LCMS m/z 246.1 (M+H)+, Rt 0.91 min.

reactant | 2,3-difluorobenzaldehyde | 3.52 mmol, 0.5 g | FC1=C(C=O)C=CC=C1F | C7H4F2O
reactant | (R)-2-methylpropane-2-sulfinamide | 3.87 mmol, 0.469 g | CC(C)(C)[S@@](=O)N | C4H11NOS
catalyst | Copper (II) Sulfate | 5.28 mmol, 0.842 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | DCE | 7.04 mL | ClCCCl | C2H4Cl2
product | (R,E)-N-(2,3-difluorobenzylidene)-2-methylpropane-2-sulfinamide | 3.26 mmol, 0.8007 g, 93% yield | FC1=C(\C=N\[S@](=O)C(C)(C)C)C=CC=C1F | C11H13F2NOS
